US08685969B2
1. 6-(2-Methoxyethoxy)-1H-indole
A mixture of 1H-indol-6-ol (4.0 g, 30.0 mmol), 1-bromo-2-methoxyethane (3.53 mL, 37.6 mmol), and cesium carbonate (11.75 g, 36.1 mmol) in DMF (50 mL) was heated at 75° C. for 16 hr. DMF was removed under vacuum with a oil pump. The residue was diluted with ethyl acetate (200 mL), washed sequentially with 1 N NaOH solution (50 mL), water (2×50 mL), and brine (50 mL). The organic solution was dried over anhydrous MgSO4 and concentrated under vacuum. The desired product (4.68 g, 21.54 mmol, 71.7% yield) was isolated as a white solid by ISCO (300 g silica gel, solid loading, 10-50% ethyl acetate/hexane).

reactant | 1H-indol-6-ol | 30.0 mmol, 4.0 g | N1C=CC2=CC=C(C=C12)O | C8H7NO
reactant | 1-bromo-2-methoxyethane | 37.6 mmol, 3.53 mL | BrCCOC | C3H7BrO
reactant | cesium carbonate | 36.1 mmol, 11.75 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 6-(2-Methoxyethoxy)-1H-indole | 21.54 mmol, 4.68 g, 71.7% yield | COCCOC1=CC=C2C=CNC2=C1 | C11H13NO2
